US05500453
A solution of 1.69 g of lithium tert-butyltriethylborate in 50 ml of acetonitrile was added to solution of 5.00 g of diphenyl(p-methylbenzyl)sulfonium hexafluoroarsenate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 1.28 g of diphenyl(p-methylbenzyl)sulfonium-(tert-butyl)triethylborate.

reactant | lithium tert-butyltriethylborate | 1.69 g | C(C)(C)(C)[B-](CC)(CC)CC.[Li+]
reactant | diphenyl(p-methylbenzyl)sulfonium hexafluoroarsenate | 5.00 g | F[As-](F)(F)(F)(F)F.C1(=CC=CC=C1)[S+](CC1=CC=C(C=C1)C)C1=CC=CC=C1
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | diphenyl(p-methylbenzyl)sulfonium (tert-butyl)triethylborate | 1.28 g | C1(=CC=CC=C1)[S+](CC1=CC=C(C=C1)C)C1=CC=CC=C1.C(C)(C)(C)[B-](CC)(CC)CC | InChI=1S/C20H19S.C10H24B/c1-17-12-14-18(15-13-17)16-21(19-8-4-2-5-9-19)20-10-6-3-7-11-20;1-7-11(8-2,9-3)10(4,5)6/h2-15H,16H2,1H3;7-9H2,1-6H3/q+1;-1
